US08703758B2
B) tert-butyl [(1S)-2-{[1-(5-hydroxy[1,3]oxazolo[5,4-b]pyridin-2-yl)piperidin-4-yl]oxy}-1-methylethyl]carbamate
To a solution of tert-butyl [(1S)-2-{[1-(5-bromo[1,3]oxazolo[5,4-b]pyridin-2-yl)piperidin-4-yl]oxy}-1-methylethyl]carbamate (484 mg) in THF (3 mL) was added 1.6M n-butyllithium-hexane solution (1.70 mL) at −78° C., and the mixture was stirred at the same temperature for 20 min. Trimethyl borate (0.355 mL) was added to the reaction mixture, and the mixture was allowed to warm to room temperature and stirred for 30 min. 30% Hydrogen peroxide water (3 mL) and 8M aqueous sodium hydroxide solution (1 mL) were added to the reaction mixture, and the mixture was stirred at room temperature for 30 min. The reaction mixture was neutralized with 1M hydrochloric acid, and extracted with ethyl acetate, and the extract was dried over magnesium sulfate. The solvent was evaporated under reduced pressure, and the obtained residue was purified by silica gel column chromatography (hexane/ethyl acetate) to give the title compound (68.1 mg).

reactant | tert-butyl [(1S)-2-{[1-(5-bromo[1,3]oxazolo[5,4-b]pyridin-2-yl)piperidin-4-yl]oxy}-1-methylethyl]carbamate | 484 mg | BrC1=CC=C2C(=N1)OC(=N2)N2CCC(CC2)OC[C@H](C)NC(OC(C)(C)C)=O | C19H27BrN4O4
reactant | Trimethyl borate | 0.355 mL | B(OC)(OC)OC | C3H9BO3
reactant | Hydrogen peroxide water | 3 mL | O.OO
reactant | sodium hydroxide | 8M, 1 mL | [OH-].[Na+]
reactant | hydrochloric acid | 1M | Cl | ClH
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | tert-butyl [(1S)-2-{[1-(5-hydroxy[1,3]oxazolo[5,4-b]pyridin-2-yl)piperidin-4-yl]oxy}-1-methylethyl]carbamate | 68.1 mg | OC1=CC=C2C(=N1)OC(=N2)N2CCC(CC2)OC[C@H](C)NC(OC(C)(C)C)=O | C19H28N4O5
